US04242519
Methyl α-methylthio(3-chloro-4-phthalimidophenyl)acetate was dissolved in 4.0 ml of dimethylformamide, and with ice cooling and stirring, 82 mg (65% content) of sodium hydride was added. The mixture was stirred for 10 minutes. With ice cooling, 0.2 ml of methyl iodide was added, but the deep red color did not vanish. Hence, 0.2 ml of methyl iodide was further added, and the mixture was stirred for about 1.5 hours at room temperature. The color of the solution became lighter, and turned orange. To the reaction solution was added 20 ml of an aqueous solution of ammonium chloride, and the mixture was extracted twice with 10 ml of methylene chloride. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residual orange oil was chromatographed on a column of Florisil using methylene chloride as an eluent to afford 0.453 g (68%) of methyl α-methylthio-α-(3-chloro-4-phthalimidophenyl)propionate as colorless crystals.

reactant | Methyl α-methylthio(3-chloro-4-phthalimidophenyl)acetate | CSC(C(=O)OC)C1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)Cl | C18H14ClNO4S
reactant | sodium hydride | 82 mg | [H-].[Na+]
reactant | methyl iodide | 0.2 ml | CI | CH3I
reactant | methyl iodide | 0.2 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | methyl α-methylthio-α-(3-chloro-4-phthalimidophenyl)propionate | 0.453 g, 68% | CSC(C(=O)OC)(C)C1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)Cl | C19H16ClNO4S
